US05175157
3-[2-(N-(3-(Pyrid-4-yl)-propyl)-piperid-2-yl)-ethyl]-7,8-methylenedioxy-2-oxo-1,3-dihydro-2H-3-benzazepine-dihydrochloride-dihydrate
Prepared from 7,8-methylenedioxy-2-oxo-1,3-dihydro-2H-3-benzazepine and 2-(2-chloroethyl)-N-[3-(pyrid-4-yl)-propyl]-piperidine in dimethylsulphoxide and potassium tert.butoxide analogously to Example 2.

reactant | 7,8-methylenedioxy-2-oxo-1,3-dihydro-2H-3-benzazepine | C1OC2=CC3=C(CC(NC=C3)=O)C=C2O1 | C11H9NO3
reactant | 2-(2-chloroethyl)-N-[3-(pyrid-4-yl)-propyl]-piperidine | ClCCC1N(CCCC1)CCCC1=CC=NC=C1 | C15H23ClN2
solvent | dimethylsulphoxide | CS(=O)C | C2H6OS
solvent | potassium tert.butoxide | CC(C)([O-])C.[K+]
product | 3-[2-(N-(3-(Pyrid-4-yl)-propyl)-piperid-2-yl)-ethyl]-7,8-methylenedioxy-2-oxo-1,3-dihydro-2H-3-benzazepine-dihydrochloride-dihydrate | O.O.Cl.Cl.N1=CC=C(C=C1)CCCN1C(CCCC1)CCN1C=CC2=C(CC1=O)C=C1C(=C2)OCO1 | InChI=1S/C26H31N3O3.2ClH.2H2O/c30-26-18-22-17-25-24(31-19-32-25)16-21(22)8-14-29(26)15-9-23-5-1-2-12-28(23)13-3-4-20-6-10-27-11-7-20;;;;/h6-8,10-11,14,16-17,23H,1-5,9,12-13,15,18-19H2;2*1H;2*1H2
